US08563541B2
Step 1: tert-butyl (4-formylpyridin-3-yl)carbamate
A solution of tert-butyl pyridin-3-ylcarbamate (17.7 g, 91.1 mmol) in THF (300 mL) was cooled to −78° C. and treated with 1.70 M tert-butyllithium in pentane (129 mL). Upon completion of the addition, the reaction was stirred at −78° C. for an additional 15 min and then at −20° C. for 1.5 h. 1-piperidinecarboxaldehyde (30.4 mL, 0.273 mol) was added while the temperature was maintained below at −15° C., and then the mixture was allowed to stir at room temperature overnight. The solution was cooled to 0° C. and was quenched by the addition of 1 M HCl to bring the pH to 2. Solid Na2CO3 was then added to adjust the pH to 7. The solution was extracted with ethyl acetate three times, and the combined organic solutions were washed with water (3×) and brine. The organic layer was dried, filtered, and volatiles evaporated. The residue was purified by silica gel chromatography (50% ethyl acetate/hexanes) to give the desired product as a yellow solid (12.2 g, 60%). LCMS for C11H15N2O3(M+H)+: m/z=223.1.

reactant | tert-butyl pyridin-3-ylcarbamate | 91.1 mmol, 17.7 g | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
reactant | tert-butyllithium | 1.70 M | C(C)(C)(C)[Li]
reactant | 1-piperidinecarboxaldehyde | 0.273 mol, 30.4 mL | N1(CCCCC1)C=O | C6H11NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | pentane | 129 mL | CCCCC | C5H12
product | tert-butyl (4-formylpyridin-3-yl)carbamate | 12.2 g, 60% | C(=O)C1=C(C=NC=C1)NC(OC(C)(C)C)=O | C11H14N2O3
